US06245761B1
Preparation of 3-(5-bromo-2-fluorobenzyloxy)-1-(piperidin-2-yl)propane
3-(5-Bromo-2-fluorobenzyloxy)-1-[1-(t-butoxycarbonyl)piperidin-2-yl]propane (590 mg, 1.37 mmol) was dissolved in methylene chloride (11 ml), cooled to 0° C., and treated with 3 ml of trifluoroacetic acid. The reaction mixture was stirred at 0° C. for 20 minutes, then warmed to ambient temperature, and stirred an additional ten minutes. The reaction mixture was diluted with methylene chloride and quenched with saturated sodium bicarbonate. The pH was adjusted to about 10 with 1 N sodium hydroxide. The aqueous fraction was back-extracted with methylene chloride. The organic fractions were combined, dried over sodium sulfate, filtered, and concentrated.

reactant | 3-(5-Bromo-2-fluorobenzyloxy)-1-[1-(t-butoxycarbonyl)piperidin-2-yl]propane | 1.37 mmol, 590 mg | BrC=1C=CC(=C(COCCCC2N(CCCC2)C(=O)OC(C)(C)C)C1)F | C20H29BrFNO3
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 11 ml | C(Cl)Cl | CH2Cl2
product | 3-(5-bromo-2-fluorobenzyloxy)-1-(piperidin-2-yl)propane | BrC=1C=CC(=C(COCCCC2NCCCC2)C1)F | C15H21BrFNO
